US04228100
Reaction of THPC (9.53 g, 0.05 mol) with 1,1-dimethylurea (17.62 g, 0.2 mol) in toluene (75 ml), following Example 1, gave 23.47 g (99.7%) of tetrakis(3,3-dimethylureidomethyl)phosphonium chloride (I, R=H, R'=R"=CH3, X=Cl) as a colorless, hygroscopic resin.

reactant | THPC | 0.05 mol, 9.53 g | C(O)[P+](CO)(CO)CO.[Cl-]
reactant | 1,1-dimethylurea | 0.2 mol, 17.62 g | CN(C(=O)N)C | C3H8N2O
solvent | toluene | 75 ml | C1(=CC=CC=C1)C | C7H8
product | tetrakis(3,3-dimethylureidomethyl)phosphonium chloride | 23.47 g, 99.7% | [Cl-].CN(C(NC[P+](CNC(=O)N(C)C)(CNC(=O)N(C)C)CNC(=O)N(C)C)=O)C | InChI=1S/C16H35N8O4P.ClH/c1-21(2)13(25)17-9-29(10-18-14(26)22(3)4,11-19-15(27)23(5)6)12-20-16(28)24(7)8;/h9-12H2,1-8H3,(H3-,17,18,19,20,25,26,27,28);1H
